US07166617B2
b) 2-Bromomethylbenzoic acid ethyl ester
2-Methylbenzoic acid ethyl ester (2.00 g, 11.9 mmol) was dissolved in carbon tetrachloride (60 ml), and the solution was added with N-bromosuccinimide (2.56 g, 14.4 mmol) and a catalytic amount of benzoylperoxide and then heated under reflux. After one hour, the reaction mixture was cooled to room temperature and added with hexane (40 ml) to remove insoluble solids by filtration. The filtrate was evaporated under reduced pressure to obtain the title compound 3.16 g as yellow oil. the product was used in the next reaction without purification.

reactant | 2-Methylbenzoic acid ethyl ester | 11.9 mmol, 2.00 g | C(C)OC(C1=C(C=CC=C1)C)=O | C10H12O2
reactant | N-bromosuccinimide | 14.4 mmol, 2.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | hexane | 40 ml | CCCCCC | C6H14
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethylbenzoic acid ethyl ester | 3.16 g | C(C)OC(C1=C(C=CC=C1)CBr)=O | C10H11BrO2
